US04544659
4.8 g of 1-nitro-9-acridanone are dissolved in 200 ml of dimethylformamide and treated with 0.5 g of sodium hydride. The deep red solution is treated with 2.5 ml of methyl iodide and stirred at room temperature for 4 hours. The yellow precipitate obtained is filtered and washed successively with dimethylformamide, water, ethanol and ether. There is obtained 10-methyl-1-nitro-9-acridanone of melting point 308°-309°.

reactant | 1-nitro-9-acridanone | 4.8 g | [N+](=O)([O-])C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H8N2O3
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | methyl iodide | 2.5 ml | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 10-methyl-1-nitro-9-acridanone | CN1C=2C=CC=C(C2C(C2=CC=CC=C12)=O)[N+](=O)[O-] | C14H10N2O3
